US06384041B1
To a suspension of 0.70 g (28.3 mmol) of sodium hydride in 40 mL of benzene was added 1.90 g (24.5 mmol) of methyl glycolate and 6.00 g (18.9 mmol) of 2-(methylthio)-4-chloro-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidine. The mixture was heated at 60° C. and monitored by TLC (silica, methylene chloride) for conversion to product. After 3 days, an additional 0.70 g (28.3 mmol) of sodium hydride and 1.90 g (24.5 mmol) of methyl glycolate was added to the reaction. After an additional 3 days, the reaction was cooled to ambient temperature and partitioned by the addition of 100 mL of 2 M sodium hydrogen sulfate and 200 mL of ethyl acetate. The aqueous phase was extracted twice with 50 mL portions of ethyl acetate. The-combined organic phases were dried with magnesium sulfate and concentrated to 7.85 g of yellow solid. The solid was purified by flash chromatography (500 g silica, step gradient from 1:1 heptane-methylene chloride to methylene chloride) to provide 6.35 g (90%) of [[2-(methylthio)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a white solid. nmr (500 MHz, CDCl3) δ1.25 (t, J=7.5 Hz, 3H), 2.54 (s, 3H), 2.58 (q, J=7.5 Hz, 2H), 3.79 (s, 3H), 5.05 (s, 2H), 5.40 (s, 2H), 6.30 (s, 1H), 7.07 (d, J=7.1 Hz, 2H), 7.24 (m, 3H)

reactant | sodium hydride | 28.3 mmol, 0.70 g | [H-].[Na+]
reactant | methyl glycolate | 24.5 mmol, 1.90 g | C(CO)(=O)OC | C3H6O3
reactant | 2-(methylthio)-4-chloro-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidine | 18.9 mmol, 6.00 g | CSC=1N=C(C2=C(N1)N(C(=C2)CC)CC2=CC=CC=C2)Cl | C16H16ClN3S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium hydride | 28.3 mmol, 0.70 g | [H-].[Na+]
reactant | methyl glycolate | 24.5 mmol, 1.90 g | C(CO)(=O)OC | C3H6O3
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | [[2-(methylthio)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 6.35 g, 90% | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2)CC)CC2=CC=CC=C2)=O | C19H21N3O3S
